US07220856B2
Preparation of 4-(7-chloro-4-quinolinyl)-N-(3,4-dimethoxyphenyl)-1-piperazinecarboxamide
As described for example 78, 3,4-dimethoxyaniline, p-nitrophenyl chloroformate, diisopropylethyl amine, and 7-chloro-4-piperazinylquinoline are reacted to afford the product. LC-MS: 427 (M++1). 1H NMR (CDCl3) δ 8.80 (d, 1H), 8.05 (s, 1H), 7.95 (d, 1H), 7.50 (d, 1H), 7.20 (s, 1H), 6.85 (d, 1H), 6.80 (d, 1H), 6.75 (m, 1H), 6.40 (s, 1H), 3.90 (s, 3H), 3.85 (s, 3H), 380 (m, 4H), 3.25 (m, 4H).

reactant | 3,4-dimethoxyaniline | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | p-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-piperazinylquinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
product | 4-(7-chloro-4-quinolinyl)-N-(3,4-dimethoxyphenyl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC(=C(C=C1)OC)OC | C22H23ClN4O3
